Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
PCP:  ___

CC:  loss of consciousness

HPI: Ms. ___ is a ___ yo female with metastatic ovarian 
cancer
here with loss of consciousness.  She is not followed here, but
she reports that she has had progressive disease over the past
___ months, after her initial diagnosis in ___.

She was yesterday at a banquet and lost consciousness.  her
family saw some muscle rigidity and then right ward gaze.  This
followed a sensation of feeling overwhelmed and with
lightheadedness and chest pressure.  The episode lasted for 2
minutes.  She was confused afterward, with weakness in her legs. 


She was sent to ___ - where she had a head CT without obvious
lesions, and chest CT which showed diffuse disease in her
abdomen, as well as bilateral pleural effusions, and she was
transferred.

In the past few weeks, she has become weak so she can no longer
walk or talk in full sentences.  She is undergoing regular
thoracenteses for malignant effusions.  She has never had an MRI
and has not been told she has cancer in her brain.

She notes leg weakness, 45 lb weight loss in the past 6 months,
and recent left leg swelling.  she also has noticed muscle 
spasms
in her left arm and leg. T 

ROS as above, otherwise reviewed in remaining systems and
negative.

  
 
Past Medical History:
PMH:
Metastatic ovarian cancer, diagnosed in ___ with surgery, and 
progressive disease since ___ with multiple treatments since 
then, at ___ and ___
Crohn's 
Anxiety
Artritis
Pulmonary embolsim
 
Social History:
___
Family History:
no family history of ovarian or breast ca.
 
Physical Exam:
                                                         

Physical exam
afebrile 97.7 PO 107 / 78 L Lying 122 18 94 2L 
General:  cachectic woman, with alopecia.
HEENT: NCAT. PERRL, EOMI.  No scleral icterus.  No conjunctival
injection.   Mucous membranes moist.  No oral ulcers. No ear or
nose abnormalities
Neck:  Supple, no LAD, no JVP elevation.
Resp: diminished at both bases, dull on right to ___ way up, no
wheezes or crackles
CV:  tachycardic.  no murmurs appreciated.
Gastrointestinal:  soft, non tender.
Musculoskeletal:  left leg with edema.
Neurological:  alert and oriented X 3, CN intact.  able to lift
both arms up, and with full strength in distal feet, with
downgoing toes, but decreased strength at hip flexors.
Dermatologic:  No rashes or ulcers.
Psychiatric:  Appropriate.
GU:  deferred.

 
Pertinent Results:
Relevant data:
___ 11:22PM BLOOD WBC:6.2 RBC:4.19 Hgb:10.8* Hct:35.3 
MCV:84
MCH:25.8* MCHC:30.6* RDW:19.4* RDWSD:60.1* Plt Ct:193
___ 11:22PM BLOOD Neuts:88.6* Lymphs:7.9* Monos:2.7*
Eos:0.2* Baso:0.0 Im ___ AbsNeut:5.52 AbsLymp:0.49*
AbsMono:0.17* AbsEos:0.01* AbsBaso:0.00*
___ 11:22PM BLOOD Glucose:86 UreaN:18 Creat:0.4 Na:134 
K:4.5
Cl:91* HCO3:24 AnGap:24*
___ 04:25AM BLOOD cTropnT:0.17*
___ 11:22PM BLOOD cTropnT:0.18*
___ 11:22PM BLOOD proBNP:1596*
___ 11:22PM BLOOD Albumin:2.8* Calcium:9.2 Phos:2.5* 
Mg:1.5*

CTHEART AND VASCULATURE: Pulmonary arteries are well-opacified 
to
the
subsegmental level. There is a filling defect within a
subsegmental
branch of the left upper lobe (axial image 84) compatible with a
pulmonary embolism.  No additional filling defect identified.The
subsegmental branches of the right lower lobe are not well
assessed
due to motion and collapse. 
 
Aorta and great vessels are grossly unremarkable without 
evidence
of
aneurysm. Heart is within normal limits. There is no significant
pericardial effusion.
 
AXILLA, HILA, AND MEDIASTINUM: Enlarged mediastinal adenopathy 
is
noted. Conglomerate prevascular lymph nodes measure 5.3 x 2.1 
cm.
Subcarinal adenopathy is also noted measuring 2.4 x 2.9 cm.
 
PLEURAL SPACES: There are bilateral pleural effusions, moderate
on the
right and small to moderate on the left, both with components of
loculation. Soft tissue lining the pleura is worrisome for
malignant
effusions. Locule of air noted within the right pleural effusion
at
the base, compatible with recent prior intervention.
 
LUNGS/AIRWAYS: Atelectasis and consolidation noted at the right
lung
base. Interlobular septal thickening at bilateral bases could
represent edema although lymphangitic spread of tumor is a
diagnostic

consideration. 3 mm nodule noted at the right upper lobe (axial
image
59). The central airways are patent.
 
ABDOMEN: Significant burden of disease is noted in the abdomen
with
soft tissue abutting the pancreatic head worrisome from
conglomerate
adenopathy. Soft tissue also surrounds the periphery of the
liver.
Thin sliver of perihepatic free fluid is also noted, likely
loculated.
More discrete partially calcified retroperitoneal adenopathy is
visualized. Soft tissue nodularity inferior to the spleen.
Findings
are all worrisome for peritoneal carcinomatosis. Nonobstructing
left
renal stone.
 
BONES: There is no fracture or focal osseous abnormality. Old
healed
right anterolateral rib fractures. There is diffuse ascarca.
 
IMPRESSION: 
1. Single subsegmental left upper lobe pulmonary embolism.
2. Bilateral partially loculated pleural effusions, right 
greater
than left with soft tissue attenuation of the pleura compatible
with malignant effusions.
3. Bibasilar regions of consolidation likely in part 
atelectasis,
with interlobular septal thickening which could be due to edema
although lymphangitic spread of tumor would be of concern.
4. Other evidence of metastatic disease including mediastinal 
and
intra-abdominal adenopathy, and peritoneal carcinomatosis.
 
Findings were discussed with Dr. ___ by Dr. ___ at 8:15 
___
on ___ 10 minutes after time of discovery.
\
EKG sinus tachycardia
 
Brief Hospital Course:
 Ms. ___ is a ___ female here with likely
seizure, in setting of metastatic ovarian cancer.  This is
suspicious for either mass lesion or leptomeningeal disease. 
Either are possible in setting of progressive disease.  

She also has shortness of breath, and chest pain, with elevated
troponin, known PEs and pleural effusions.

Overall, her recent course is concerning for progressive 
disease,
although further information from her chronic providers is
essential to determine appropriate next steps

##  Likely new seizure, with metastatic ovarian cancer
##  Shortness of breath, pleural effusions, pulmonary embolism
##  Elevated troponin

She was hospitalized at the ___ - with plan for MRI, EEG and 
possible LP.  Her oncologist at ___ was contacted, and her 
covering physician ___ accepted ___ in transfer, for 
continuity of care and for further workup of her presenting 
complaints.  She will be transferred on oxygen, for further 
workup, including the above mentioned EEG, MRI and possible LP.  
In addition, further goals of care discussion can be discussed 
as appropriate.

Code status: full.

>90 min spent on care coordination, patient care and
communication.

___, MD
___, ___, pager ___

 

 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure, likely
Metastatic ovarian cancer
Elevated troponin
Pulmonary embolism
Pleural effusions
 
Discharge Condition:
alert, oriented.
94% on 2L - stable neuro exam.
 
Discharge Instructions:
You are being transferred to ___ to continue care.
 
Followup Instructions:
___